US07244419B2
110 g of sodium glutamate monohydrate was dissolved in 140 g of water and 78 g of 27% aqueous sodium hydroxide and cooled to 10° C. The solution was added with 110 g of acetone and added dropwise with 87 g of octanoyl chloride and 90 g of 27% aqueous sodium hydroxide. The reaction mixture for the acylation was diluted with 100 g of water and neutralized with 64 g of 95% sulfuric acid to separate an oil. The aqueous layer was removed, and the oil layer was concentrated under reduced pressure to obtain an oily substance. The resulting oily substance was dissolved in 742 g of methanol, and the solution was added with 6.2 g of 95% sulfuric acid and refluxed for 9 hours. The reaction mixture was left stand for cooling to 35° C. and neutralized with 10.5 g of n-butylamine, and then the methanol was evaporated to obtain an oily substance. The resulting oily substance was added with 630 g of toluene and 191 g of n-butylamine and the mixture was stirred with heating at 90° C. for 10 hours. The reaction mixture was added with 500 g of warm water and 178 g of 95% sulfuric acid to separate an oil, and the aqueous layer was removed. The oil layer was added with 645 g of warm water, and the solvent was removed under ordinary pressure to obtain slurry of white solid. The resulting solid was collected by filtration and dried in vacuo at 50° C. to obtain octanoylglutamic acid dibutylamide.

reactant | sodium glutamate monohydrate | 110 g | O.N[C@@H](CCC(=O)[O-])C(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | 78 g | [OH-].[Na+]
reactant | octanoyl chloride | 87 g | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | sodium hydroxide | 90 g | [OH-].[Na+]
reactant | sulfuric acid | 64 g | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 6.2 g | S(O)(O)(=O)=O | H2O4S
reactant | n-butylamine | 10.5 g | C(CCC)N | C4H11N
reactant | n-butylamine | 191 g | C(CCC)N | C4H11N
reactant | sulfuric acid | 178 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 140 g | O | H2O
solvent | water | 100 g | O | H2O
solvent | methanol | 742 g | CO | CH4O
solvent | water | 500 g | O | H2O
solvent | toluene | 630 g | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 110 g | CC(=O)C | C3H6O
product | octanoylglutamic acid dibutylamide | C(CCC)N(C([C@@H](NC(CCCCCCC)=O)CCC(=O)O)=O)CCCC | C21H40N2O4
